US06936602B1
In THF (27.4 ml) was dissolved methyl 7-[4-(2-butoxyethoxy)phenyl]-2,3-dihydro-1-benzazepine-4-carboxylate (1.37 g). To the solution was added 60% sodium hydride (0.27 g) at 0° C., and the mixture was stirred at room temperature for 1 hour. To the mixture was added 3-bromo-1-(trimethylsilyl)-1-propyne (1.48 ml), and the mixture was stirred at 65° C. for 90 hours. After cooled to room temperature, the reaction solution was added to water, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine and dried with magnesium sulfate. The solvent was removed under reduced pressure, and the resulting residue was purified with silica gel column chromatography (hexane/ethyl acetate=3/1) to give methyl 7-[4-(2-butoxyethoxy)phenyl]-1-(3-trimethylsilyl-2-propynyl)-2,3-dihydro-1-benzazepine-4-carboxylate (0.78 g).

reactant | methyl 7-[4-(2-butoxyethoxy)phenyl]-2,3-dihydro-1-benzazepine-4-carboxylate | 1.37 g | C(CCC)OCCOC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCN2)C(=O)OC)C1 | C24H29NO4
reactant | sodium hydride | 0.27 g | [H-].[Na+]
reactant | 3-bromo-1-(trimethylsilyl)-1-propyne | 1.48 ml | BrCC#C[Si](C)(C)C | C6H11BrSi
reactant | water | O | H2O
solvent | THF | 27.4 ml | C1CCOC1 | C4H8O
product | methyl 7-[4-(2-butoxyethoxy)phenyl]-1-(3-trimethylsilyl-2-propynyl)-2,3-dihydro-1-benzazepine-4-carboxylate | 0.78 g | C(CCC)OCCOC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCN2CC#C[Si](C)(C)C)C(=O)OC)C1 | C30H39NO4Si
